US07576094B2
To a solution of 2-methoxy-1,3-dimethyl-5-nitrobenzene (12 g) in ethanol in a Parr hydrogenation bottle, was added Pd/C (0.24 g, 10%). The mixture was shaken at 50 psi of H2 in the hydrogenator overnight. The reaction mixture was filtered through Celite® and the solvent was removed by evaporation. The crude residue was purified by column chromatography (10% ethyl acetate/hexane), giving 4-methoxy-3,5-dimethylaniline as a light yellow solid (8.2 g). 1H-NMR (300 MHz, CDCl3) δ=6.18 (s, 1H), 3.711 (s, 3H), 2.29 (s, 6H) ppm. MS: m/z 152 (100, M+H)+

reactant | 2-methoxy-1,3-dimethyl-5-nitrobenzene | 12 g | COC1=C(C=C(C=C1C)[N+](=O)[O-])C | C9H11NO3
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 0.24 g | [Pd] | Pd
product | 4-methoxy-3,5-dimethylaniline | 8.2 g | COC1=C(C=C(N)C=C1C)C | C9H13NO
